US04447420
Preparation of O-(2-Methyl-4-chlorophenyl) O-(3,7-Dimethylfluoren-9-one-1-yl) Methylphosphonate
1-Hydroxy-3,7-dimethylfluoren-9-one (0.01 mole), triethylamine (0.011 mole) and toluene (75 ml) are charged into a glass reaction flask equipped with a stirrer, thermometer and addition funnel. The mixture is cooled to about -10° C. and a solution of O-(2-methyl-4-chlorophenyl) methylphosphonochloridate (0.011 mole) in toluene (25 ml) is slowly added with stirring. After the addition is completed the reaction mixture is allowed to slowly warm to room temperature and stirring is continued for a period of 24 hours. After this time the reaction mixture is filtered and the filtrate is stripped of solvent leaving a residue. This residue is subjected to column chromatography using mixtures of ethyl acetate and hexane as the eluant. The fractions containing product are combined and stripped of solvent to yield the desired product O-(2-methyl-4-chlorophenyl) O-(3,7-dimethylfluoren-9-one-1-yl) methylphosphonate.

reactant | 1-Hydroxy-3,7-dimethylfluoren-9-one | 0.01 mole | OC1=CC(=CC=2C3=CC=C(C=C3C(C12)=O)C)C | C15H12O2
reactant | triethylamine | 0.011 mole | C(C)N(CC)CC | C6H15N
reactant | O-(2-methyl-4-chlorophenyl) methylphosphonochloridate | 0.011 mole | CP(OC1=C(C=C(C=C1)Cl)C)(=O)Cl | C8H9Cl2O2P
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | O-(2-methyl-4-chlorophenyl) O-(3,7-dimethylfluoren-9-one-1-yl) methylphosphonate | CP(OC1=C(C=C(C=C1)Cl)C)(OC1=CC(=CC=2C3=CC=C(C=C3C(C12)=O)C)C)=O | C23H20ClO4P
